US04039543
A mixture of 9.76 g. of 3,5-bis(dimethylamino)-4-methoxy-α-[(methylsulfonyl)methyl]benzyl alcohol, 1.8 g. of sodium methylate and 4.8 g. of β-anilinopropionitrile in 20 ml. of dimethylsulfoxide was stirred with the exclusion of moisture for 5 hours at 50° C. The mixture was poured into 250 ml. of water, the precipitated oil extracted with ethyl acetate, the ethyl acetate solution dried over sodium sulfate and evaporated. By recrystallization of the residue from high-boiling petroleum ether, there was obtained α-(anilinomethylene)-3,5-bis(dimethylamino)-4-methoxyhydrocinnamonitrile, having a melting point of 103°-105° C.

reactant | 3,5-bis(dimethylamino)-4-methoxy-α-[(methylsulfonyl)methyl]benzyl alcohol | CN(C=1C=C(C(CS(=O)(=O)C)O)C=C(C1OC)N(C)C)C | C14H24N2O4S
reactant | sodium methylate | C[O-].[Na+]
reactant | β-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | α-(anilinomethylene)-3,5-bis(dimethylamino)-4-methoxyhydrocinnamonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC(=C(C(=C1)N(C)C)OC)N(C)C | C21H26N4O
